US06838463B2
In 10 ml of tetrahydrofuran was suspended 1.3 g of zinc (powder), to which dibromoethane (2 drops) was added. The mixture was heated under reflux for 5 minutes, to which trimethylsilane chloride was added. The mixture was further heated under reflux for 5 minutes, to which a solution of 2.2 g of 2-chloro-6-fluorobenzyl bromide dissolved in 20 ml of tetrahydrofuran was slowly added with heating under reflux, followed by stirring for 20 minutes. (The solution thus obtained is referred to as solution J). In 10 ml of tetrahydrofuran were suspended 1.5 g of 4,6-dichloropyrimidine and 0.1 g of dichlorobistriphenylphosphine palladium, to which the above solution J was added, followed by heating under reflux for 3 hours and further stirring at room temperature for 12 hours. The reaction mixture was then poured into water and extracted three times with ethyl acetate. The organic layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.77 g of 4-chloro-6-(2-chloro-6-fluorobenzyl)pyrimidine.

reactant | trimethylsilane chloride | [Cl-].C[SiH](C)C
reactant | 2-chloro-6-fluorobenzyl bromide | 2.2 g | ClC1=C(CBr)C(=CC=C1)F | C7H5BrClF
reactant | 4,6-dichloropyrimidine | 1.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | dibromoethane | 2 drops | BrC(C)Br | C2H4Br2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | zinc | 1.3 g | [Zn] | Zn
product | 4-chloro-6-(2-chloro-6-fluorobenzyl)pyrimidine | 0.77 g | ClC1=NC=NC(=C1)CC1=C(C=CC=C1F)Cl | C11H7Cl2FN2
